US06417228B1
Lactol 8 [for the synthesis of 8, see Prostaglandins 1983, 25(3), 311] is condensed with Ph3P+CH2OCH3 Cl− in THF in the presence of potassium t-butoxide to afford enol ether 9. Conversion of 9 to lactol 10 is effected using HCl in aqueous isopropanol. Reaction of 10 with Ph3P+(CH2)3CO2H Br− in THF in the presence of potassium t-butoxide, followed by isolation of the product olefin acid and esterification with isopropyl iodide in the acetone in presence of DBU, provides ester 11. Treatment of 11 with TBSOTf and 2,6-lutidine in CH2Cl2, followed by addition of TBAF in THF, yields amine 12. DPA-mediated coupling of 12 with acid 6 gives amide 13, which is deprotected with TBAF in THF to afford III after chromatographic separation of the carbon 15 diastereomers.

reactant | TBSOTf | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | 2,6-lutidine | N1=C(C=CC=C1C)C | C7H9N
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | amine 12 | CCCCCCCCCCCCN | C12H27N
